US06326369B1
Ethyl 2-(4-benzyloxyphenyl)-5,6-dimethoxy-4,7-dioxo-2-indancarboxylate
A water (1.0 ml) solution of CAN (976 mg, 1.78 mmols) was dropwise added to an acetonitrile (7.0 ml) solution of ethyl 2-(4-benzyloxyphenyl)-4,5,6,7-tetramethoxy-2-indancarboxylate (350 mg, 0.711 mmols) with cooling with ice and stirring was continued for 15 minutes. Water was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous sodium chloride solution, and then dried. The solvent was evaporated in vacuo, and the resulting crude product was purified by silica gel column chromatography (hexane:ethyl acetate=5:1) followed by recrystallization from hexane-ethyl acetate to obtain the entitled compound (178 mg) as crystals.

reactant | CAN | 1.78 mmols, 976 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
reactant | acetonitrile | 7.0 ml | C(C)#N | C2H3N
reactant | ethyl 2-(4-benzyloxyphenyl)-4,5,6,7-tetramethoxy-2-indancarboxylate | 0.711 mmols, 350 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1(CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC)C(=O)OCC | C29H32O7
solvent | Water | O | H2O
solvent | water | 1.0 ml | O | H2O
product | Ethyl 2-(4-benzyloxyphenyl)-5,6-dimethoxy-4,7-dioxo-2-indancarboxylate | 178 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1(CC=2C(C(=C(C(C2C1)=O)OC)OC)=O)C(=O)OCC | C27H26O7
